US08431695B2
Step 2: Preparation of Ethyl 1-amino-4-bromo-5-cyano-1H-pyrrole-2-carboxylate
To a solution of ethyl 4-bromo-5-cyano-1H-pyrrole-2-carboxylate (2.70 g, 11.1 mmol) in DMF (75 mL) was added 95% sodium hydride powder (323 mg, 12.8 mmol). The mixture was stirred (rt) for 20 min, then (aminooxy)(diphenyl)phosphine oxide (3.89 g, 16.7 mmol) was added in one portion. After 15 min, the reaction mixture became thick and additional DMF (25 mL) was added. The reaction was heated (50° C.) for 3 h and was allowed to cool to rt and stir for 17 h. The reaction was poured into saturated aqueous NaHCO3 solution (200 mL) and was extracted with ethyl acetate (3×100 mL). The combined organics were washed with water (2×100 mL), dried (Na2SO4) and were concentrated to dryness to afford 2.8 g (100%) of the desired product, which contained minor impurities. 1H NMR (300 MHz, DMSO-d6) δ 6.95 (s, 1 H), 6.57 (s, 2 H), 4.28 (q, 2 H), 1.29 (t, 3 H).

reactant | ethyl 4-bromo-5-cyano-1H-pyrrole-2-carboxylate | 11.1 mmol, 2.70 g | BrC=1C=C(NC1C#N)C(=O)OCC | C8H7BrN2O2
reactant | sodium hydride | 12.8 mmol, 323 mg | [H-].[Na+]
reactant | (aminooxy)(diphenyl)phosphine oxide | 16.7 mmol, 3.89 g | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-amino-4-bromo-5-cyano-1H-pyrrole-2-carboxylate | 2.8 g, 100% | NN1C(=CC(=C1C#N)Br)C(=O)OCC | C8H8BrN3O2
